US06451822B1
To a stirred solution of 3-amino-4-(3,5-dimethylbenzyl)-5-ethyl-6-methylpyridin-2(1H)-one (200 mg) and 37% of aqueous formaldehyde (0.60 mL) in 5 mL of acetonitrile was added 139 mg of sodium cyanoborohydride. Glacial acetic acid (0.07 mL) was added dropwise and the reaction mixture was stirred at room temperature for 2 hours. An additional 0.07 mL of glacial acetic acid was added, and stirring was continued for 30 minutes. The solvent was evaporated and 15 mL ether were added to the resulting residue. The organic layer was washed with 3×30 mL 1N aqueous potassium hydroxide and 3 mL brine, dried over magnesium sulfate and concentrated under reduced pressure to give 3-dimethylamino-4-(3,5-dimethylbenzyl)-5-ethyl-6-methylpyridin-2(1H)-one (200 mg, 91%) mp 229-230° C.

reactant | 3-amino-4-(3,5-dimethylbenzyl)-5-ethyl-6-methylpyridin-2(1H)-one | 200 mg | NC=1C(NC(=C(C1CC1=CC(=CC(=C1)C)C)CC)C)=O | C17H22N2O
reactant | formaldehyde | 0.60 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 139 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.07 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.07 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-dimethylamino-4-(3,5-dimethylbenzyl)-5-ethyl-6-methylpyridin-2(1H)-one | 200 mg, 91% | CN(C=1C(NC(=C(C1CC1=CC(=CC(=C1)C)C)CC)C)=O)C | C19H26N2O
